US08183255B2
Intermediate H1(i): tert-butyl 3-[(5-fluoro-2-methylpyrimidin-4-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
To a pressure vessel was added 3-(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-6,6-dimethyl-4,6-dihydro-1H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester (1.50 g, 3.90 mmol), trimethylboroxine (10.9 mL, 78.4 mmol), cesium carbonate (25.5 g, 78.4 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.480 g, 0.588 mmol), H2O (6 mL), and THF (60 mL). The suspension was purged with argon for 2 min, then heat at 100° C. for 15 h. The cooled solution was filtered to remove undissolved solids. Purification by silica gel column chromatography using 0-10% ammoniated methanol in CH2Cl2 provided the desired product H1(i) as a brown solid (0.80 g, 56%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.41 (s, 9H) 1.57 (s, 6H) 2.38 (s, 3H) 4.43-4.58 (m, 2H) 8.12 (s, 1H) 10.02 (s, 1H) 12.34 (s, 1H). Mass Spectrum: Calcd for C17H24N6O2F (M+H): 363. Found: 363.

reactant | 3-(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-6,6-dimethyl-4,6-dihydro-1H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester | 3.90 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1C(C=2NN=C(C2C1)NC1=NC(=NC=C1F)Cl)(C)C | C16H20ClFN6O2
reactant | trimethylboroxine | 78.4 mmol, 10.9 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | cesium carbonate | 78.4 mmol, 25.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | H2O | 6 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.588 mmol, 0.480 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[(5-fluoro-2-methylpyrimidin-4-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | FC=1C(=NC(=NC1)C)NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C17H23FN6O2
